US06903215B2
Synthesis of 1,1,1-trifluoro-3-[1-(5-fluoro-2-methoxyphenyl)cyclopropyl]propan-2-one
To a chilled (0° C.) solution of 400 mg (1.14 mmol) of 3,3,3-trifluoro-2-[1-(5-fluoro-2-methoxyphenyl)cyclopropylmethyl]-2-hydroxypropionic acid ethyl ester in 5 mL of anhydrous THF was added 98 mg (2.58 mmol) of lithium aluminum hydride in several portions. The cold bath was then removed and the mixture was stirred at room temperature. After 4.5 hours, the mixture was cooled in an ice water bath and cautiously quenched with water, dried over magnesium sulfate, and filtered through diatomaceous earth, washing with EtOAc to afford 278 mg (78%) of title compound which was used without further purification. The filter cake was partitioned between 15 mL of 1 N aqueous hydrochloric acid and extracted with three 10 mL portions of EtOAc. The combined organic layers were washed with two 10 mL portions of 1 N aqueous hydrochloric acid, 10 mL of brine, and two 10 mL portions of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated to afford an addition 32 mg (8.9%) of 3,3,3-trifluoro-2-[1-(5-fluoro-2-methoxyphenyl)cyclopropylmethyl]propane-1,2-diol.

reactant | 3,3,3-trifluoro-2-[1-(5-fluoro-2-methoxyphenyl)cyclopropylmethyl]-2-hydroxypropionic acid ethyl ester | 1.14 mmol, 400 mg | C(C)OC(C(C(F)(F)F)(O)CC1(CC1)C1=C(C=CC(=C1)F)OC)=O | C16H18F4O4
reactant | lithium aluminum hydride | 2.58 mmol, 98 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-3-[1-(5-fluoro-2-methoxyphenyl)cyclopropyl]propan-2-one | 278 mg, 78% | FC(C(CC1(CC1)C1=C(C=CC(=C1)F)OC)=O)(F)F | C13H12F4O2
